US07470710B2
Description 10: (RS)-2-(1-Furo[2,3-b]pyridin-2-yl)methanoyl-piperidine-1-carboxylic acid tert-butyl ester
2.5N n-Butylithium in hexanes (2.3 ml, 5.75 mmol) was added dropwise over 10 min to a stirred solution of furo[2,3-b]pyridine (0.57 g, 4.79 mmol) (H. Sliwa, Bull. Soc. Chim. France, 646, 1970) in anhydrous THF (20 ml) at −75° C. under argon. The resultant mixture was stirred for 5 min at −70° C. then a solution of (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine, D1 (1.41 g, 5.19 mmol) in anhydrous THF (20 ml) was added over 2 min. and the resultant solution stirred at −70° C. for 15 min. The mixture was poured into saturated ammonium chloride (100 ml) and extracted with ethyl acetate (2×50 ml). The combined organics were dried (Na2SO4) and evaporated in vacuo. The residue was chromatographed on silica gel eluting with 0-1% ethyl acetate in dichloromethane to give the title compound as a colourless solid (0.51 g, 32%).

reactant | furo[2,3-b]pyridine | 4.79 mmol, 0.57 g | O1C=CC=2C1=NC=CC2 | C7H5NO
reactant | (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine | C(C)(C)(C)OC(=O)N1C(CCCC1)C(N(C)OC)=O | C13H24N2O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (RS)-2-(1-Furo[2,3-b]pyridin-2-yl)methanoyl-piperidine-1-carboxylic acid tert-butyl ester | 0.51 g, 32% | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C1=CC=2C(=NC=CC2)O1 | C18H22N2O4
